US04390530
In an ice bath, 7.8 g of 15α-hydroxy-18-methyl-4-estren-17-one in 50 ml of pyridine is combined with 10 ml of methanesulfonic acid chloride. After 1 hour, 50 ml of dimethylformamide (DMF) is added thereto, along with 23 g of anhydrous sodium acetate. The mixture is stirred for another 20 hours at room temperature. The mixture is introduced into ice/water. The thus-precipitated product is vacuum-filtered, washed with water, dissolved in ethyl acetate, and dried. Crystallization from ethyl acetate yields 5.1 g of 18-methyl-4,15-estradien-17-one, mp 125.2° C.

reactant | 15α-hydroxy-18-methyl-4-estren-17-one | 7.8 g | O[C@H]1CC([C@]2(CC)[C@@H]1[C@@H]1CCC3=CCCC[C@@H]3[C@H]1CC2)=O | C19H28O2
reactant | methanesulfonic acid chloride | 10 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | sodium acetate | 23 g | C(C)(=O)[O-].[Na+]
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 18-methyl-4,15-estradien-17-one | 5.1 g | CC[C@@]12C(C=C[C@H]1[C@@H]1CCC3=CCCC[C@@H]3[C@H]1CC2)=O | C19H26O
